US07855201B2
Step 1: 3,4-dihydro-2H-1,5-benzodioxepine-7-carbaldehyde
A mixture of 35 g of 3,5-dihydroxybenzaldehyde, 50 g (0.97 equiv) of 1,3-dibromopropane and 127 g (1.5 equiv) of cesium carbonate in 1 L of anhydrous acetonitrile was heated under nitrogen to 60° C. overnight. The mixture was allowed to cool, then filtered and concentrated under reduced pressure. The residue was partitioned between 500 mL of ethyl acetate and 100 mL of saturated sodium carbonate then dried over magnesium sulfate and concentrated under reduced pressure. Purification by flash chromatography (0-20% ethyl acetate in hexanes) gave the product as clear oil. MS (m+1)=179.1; 1H NMR (400 MHz, CDCl3) 9.82 (s, 1H), 7.42 (m, 2H), 7.02 (m, 1H), 4.32 (t, 2H), 4.24 (t, 2H), 2.22 (m, 2H).

reactant | 3,5-dihydroxybenzaldehyde | 35 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | 1,3-dibromopropane | 50 g, 0.97 equiv | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 127 g, 1.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 3,4-dihydro-2H-1,5-benzodioxepine-7-carbaldehyde | O1CCCOC2=C1C=CC(=C2)C=O | C10H10O3
